US04593047
3-Trifluoromethyl-4'-hydroxy-α-ethyl-benzhydrol
54.1 g. of 3-trifluoromethyl-4'-benzyloxy-α-ethyl-benzhydrol in 541 ml. of methanol are hydrogenated under atmospheric pressure, in the presence of 27.1 g. of a 10% palladium-on-charcoal catalyst. When the uptake of the calculated amount of hydrogen is complete, the catalyst is filtered off, and the solvent is distilled off under reduced pressure. The crude product is decoloured with charcoal in ethyl acetate, and recrystallized from a mixture of ethyl acetate and n-hexane. 30.8 g. of the named compound are obtained, melting at 102.5° to 103° C.

reactant | 3-trifluoromethyl-4'-benzyloxy-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=C(C=C2)OCC2=CC=CC=C2)(O)CC)C=CC1)(F)F | C23H21F3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 3-Trifluoromethyl-4'-hydroxy-α-ethyl-benzhydrol | FC(C=1C=C(C(C2=CC=C(C=C2)O)(O)CC)C=CC1)(F)F | C16H15F3O2
